*** Open Loop Signal Generator floating Ammeter ***
XU1 5 6 9 7 999 3 7 4 3 3 4 999 999 999 7 8 CA3083
RB 1 3 1k
C1 999 999 30p
RC1 1 5 2k
RC2 1 6 3k
V1 1 0 dc 1
V2 0 4 dc 1
V3 10 0 SINE(0 40m 1k)
RAmmeter1 1 2 1m
XU2 13 14 1 4 15 LM741
R4 5 14 1k
R5 6 13 1k
R3 14 15 1k
R2 999 999 1k
R1 999 999 1k
R9 999 999 1k
* DIGOUTPUT0_POST = 1 1 0 1 1 0 0 0
* DIGOUTPUT1_POST = 0 1 0 1 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0
*** Closed Loop Signal Generator Capacitor floating ammeter ***
XU1 5 6 11 7 999 3 7 4 3 3 4 999 999 999 7 10 CA3083
RB 1 3 1k
C1 5 6 30p
RC1 1 5 2k
RC2 1 6 3k
V1 1 0 dc 1
V2 0 4 dc 1
V3 10 0 SINE(0 40m 1k)
RAmmeter1 1 2 1m
XU2 13 14 1 4 15 LM741
R4 5 14 1k
R5 6 13 1k
R3 14 15 1k
R2 15 16 1k
R1 16 0 1k
R9 11 16 1k
* DIGOUTPUT0_POST = 1 1 0 1 1 0 0 0
* DIGOUTPUT1_POST = 0 1 0 1 0 0 0 0
* AOUTPUT0_POST = 0.0 
* AOUTPUT1_POST = 0.0